US06110934
4-Azido-5-iodo-2-methoxybenzoic Acid
To a solution of 4-amino-5-iodo-2-methoxybenzoic acid (300 mg, 1.02 mmol) in trifluoroacetic acid (4 ml) at 5° C., was added sodium nitrite (283 mg, 4.1 mmol) portionwise, and the mixture allowed to stir for 30 min. Sodium azide (200 mg, 3.07 mmol) was then added portionwise and the mixture stirred for a further 30 min at 0° C. The mixture was diluted with water, and a yellow solid precipithated. The solid was filtered, washed with cold water and dried, to afford the title compound (274 mg, 84%).

reactant | 4-amino-5-iodo-2-methoxybenzoic acid | 1.02 mmol, 300 mg | NC1=CC(=C(C(=O)O)C=C1I)OC | C8H8INO3
reactant | sodium nitrite | 4.1 mmol, 283 mg | N(=O)[O-].[Na+]
reactant | Sodium azide | 3.07 mmol, 200 mg | [N-]=[N+]=[N-].[Na+]
solvent | trifluoroacetic acid | 4 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | water | O | H2O
product | 4-Azido-5-iodo-2-methoxybenzoic Acid | 274 mg, 84% | N(=[N+]=[N-])C1=CC(=C(C(=O)O)C=C1I)OC | C8H6IN3O3
